### ISSUE TITLE
`include` won't include strict implicits

### ISSUE THREAD

**Issue by semorrison** [leanprover/lean4#5126]
### Description

`include` now refuses to include strict implicit section variables.

### Context

I ran into this on Mathlib's nightly-testing branch moving to `nightly-2024-08-22` , in `Mathlib/Analysis/Complex/TaylorSeries.lean`.

### Steps to Reproduce

```
section
variable {i : Nat}

include i in -- Works
example : True := by
  have _ := i
  trivial

end

section
variable ⦃i : Nat⦄

include i in -- Fails with "invalid 'include', variable 'i' has not been declared in the current scope"
example : True := by
  have _ := i
  trivial

end
```

### Versions

`nightly-2024-08-22`, was working fine on `nightly-2024-08-21`

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by Kha** [comment]
Was fixed by #5138
